US07820825B2
A stirred solution of 4{[(4-methyl-2-nitrophenyl)(2,2,2-trifluoroacetyl)-amino]methyl}benzoic acid methyl ester (14.0 g, 35 mmol) in CH2Cl2, was treated with tetrabutylammonium bromide (1.13 g, 3.5 mmol) and 20% aq. KOH (100 mL). The reaction mixture was heated to 38° C. for 3 h and cooled to room temperature. The phases were separated, the aqueous phase was extracted with CH2Cl2. The combined extracts and organic phase were washed with brine, dried over anhydrous Na2SO4 and concentrated in vacuo to afford 4-[(4-methyl-2-nitrophenylamino)methyl]-benzoic acid methyl ester as an orange solid. Yield: 90%. 1H NMR (400 MHz, CDCl3): 8.37 (bs, 1H); 8.02 (m, 3H); 7.40 (d, J=8 Hz, 2H); 7.19 (d, J=8 Hz, 1H); 6.63(d, J=8 Hz, 1H); 4.60(d, J=8 Hz, 2H); 3.91(s,3H); 2.35 (s, 1H).

reactant | 4{[(4-methyl-2-nitrophenyl)(2,2,2-trifluoroacetyl)-amino]methyl}benzoic acid methyl ester | 35 mmol, 14.0 g | COC(C1=CC=C(C=C1)CN(C(C(F)(F)F)=O)C1=C(C=C(C=C1)C)[N+](=O)[O-])=O | C18H15F3N2O5
reactant | KOH | 100 mL | [OH-].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 3.5 mmol, 1.13 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[(4-methyl-2-nitrophenylamino)methyl]-benzoic acid methyl ester | Yield: 90% | COC(C1=CC=C(C=C1)CNC1=C(C=C(C=C1)C)[N+](=O)[O-])=O | C16H16N2O4
